US07851626B2
1-[(4S,5R)-2-(4-tert-Butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazol-1-yl]-3-methyl-butan-1-one
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-2-(4-tert-butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-1H-imidazole was reacted with 3-methyl-butyryl chloride (Aldrich) to give the title compound. HR-MS (ES, m/z) calculated for C34H41N2O2Cl2 [(M+H)+] 579.2540, observed 579.2543.

reactant | rac-(4S*,5R*)-2-(4-tert-butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-1H-imidazole | C(C)(C)(C)C1=CC(=C(C=C1)C=1NC(C(N1)(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)OCC | C29H32Cl2N2O
reactant | 3-methyl-butyryl chloride | CC(CC(=O)Cl)C | C5H9ClO
product | 1-[(4S,5R)-2-(4-tert-Butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazol-1-yl]-3-methyl-butan-1-one | C(C)(C)(C)C1=CC(=C(C=C1)C=1N([C@]([C@](N1)(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C(CC(C)C)=O)OCC | C34H40Cl2N2O2
